US06573289B1
Production of 1-(5-Ethyl-6-methoxynaphthalen-2-yl)-1-(1H-imidazol-4-yl)-2-methyl-1-propanol
1-(5-Ethenyl-6-methoxynaphthalen-2-yl)-1-(1-trityl-1H-imidazol-4-yl)-2-methyl-1-propanol (1.28 g) was dissolved in a mixture of methanol and THF (1:1, 50 ml). To the solution was added 10% palladium carbon (0.3 g), and the mixture was stirred at room temperature for 2 h under hydrogen atmosphere. The catalyst was filtered off, and the filtrate was concentrated. The residue was dissolved in a mixed solution of methanol and THF (3:1, 40 ml). To the solution was added pyridine hydrochloride (0.65 g), and the mixture was stirred at 60° C. for 3 h. The reaction mixture was concentrated to dryness, and to the residue were added ethyl acetate and 1N-hydrochloric acid (20 ml). The organic layer was extracted four times with 1N-hydrochloric acid. The aqueous layer was neutralized with an aqueous solution of sodium hydrogencarbonate and extracted with ethyl acetate. The organic layer was washed with saturated sodium chloride solution, dried and concentrated. The residue was purified by silica gel chromatography (eluent, dichloromethane-methanol=10:1) followed by crystallization from dichloromethane-diisopropyl ether-hexane to give the titled compound (0.49 g) as a colorless powder.

reactant | 1-(5-Ethenyl-6-methoxynaphthalen-2-yl)-1-(1-trityl-1H-imidazol-4-yl)-2-methyl-1-propanol | 1.28 g | C(=C)C1=C2C=CC(=CC2=CC=C1OC)C(C(C)C)(O)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C39H36N2O2
solvent | methanol | CO | CH4O
solvent | THF | 50 ml | C1CCOC1 | C4H8O
catalyst | palladium carbon | 0.3 g | [C].[Pd]
product | 1-(5-Ethyl-6-methoxynaphthalen-2-yl)-1-(1H-imidazol-4-yl)-2-methyl-1-propanol | 0.49 g | C(C)C1=C2C=CC(=CC2=CC=C1OC)C(C(C)C)(O)C=1N=CNC1 | C20H24N2O2
